US05817679
a) Preparation of N-methanesulfonyl isoindole (40)
Sodium hydride (0.88 g) was suspended in 3 ml dimethyl formamide. To this stirred solution was added methanesulfonamide (0.95 g, 10 mmol) in 5 ml dimethyl formamide dropwise under nitrogen. After stirring at 60° C. for 0.5 hours, a solution of 2.64 g (10 mmol) α,α'-dibromo-o-xylene in 7 ml DMF was added at a rate appropriate to maintain the temperature at 60°-70° C. The mixture was stirred at room temperature for another hour, then quenched by pouring into water. The resulting precipitate was collected and washed with water, petroleum ether and ether successively. Weight 1.57 g (80%). 1H-NMR δ2.37 (s, 3H, --CH3), 4.709 (s, 4H, 2CH2). 7.25~7.35 (m. 4H, ArH).

reactant | Sodium hydride | 0.88 g | [H-].[Na+]
reactant | methanesulfonamide | 10 mmol, 0.95 g | CS(=O)(=O)N | CH5NO2S
reactant | α,α'-dibromo-o-xylene | 10 mmol, 2.64 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | N-methanesulfonyl isoindole | CS(=O)(=O)N1C=C2C=CC=CC2=C1 | C9H9NO2S
